US06232290B1
A mixture of piperazin-1-carboxylic acid tert-butyl ester (0.64 g), 4-bromo-4′-(5-methoxypentyloxy)biphenyl (1 g), tris(dibenzylideneacetone) (chloroform) dipalladium(0) (59 mg), (S)-(−)-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (0.12 g) and sodium tert-butoxide (0.55 g) in toluene (10 ml) was stirred for 54 hours at 90° C. The reaction mixture was added to a mixture of water and ethyl acetate. The organic layer was taken and dried over magnesium sulfate. The magnesium sulfate was filtered off, and the filtrate was evaporated under reduced pressure to give 4-[4′-(5-methoxypentyloxy)biphenyl-4-yl]piperazin-1-carboxylic acid tert-butyl ester (1.19 g).

reactant | piperazin-1-carboxylic acid tert-butyl ester | 0.64 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | 4-bromo-4′-(5-methoxypentyloxy)biphenyl | 1 g | BrC1=CC=C(C=C1)C1=CC=C(C=C1)OCCCCCOC | C18H21BrO2
reactant | sodium tert-butoxide | 0.55 g | CC(C)([O-])C.[Na+]
reactant | water | O | H2O
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone) (chloroform) dipalladium(0) | 59 mg | [Pd].[Pd].C(Cl)(Cl)Cl.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1
catalyst | (S)-(−)-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 0.12 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=C(C4=CC=CC=C4C=C3)C5=C(C=CC6=CC=CC=C65)P(C7=CC=CC=C7)C8=CC=CC=C8 | C44H32P2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-[4′-(5-methoxypentyloxy)biphenyl-4-yl]piperazin-1-carboxylic acid tert-butyl ester | 1.19 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)OCCCCCOC | C27H38N2O4
